US07119086B2
A) tert-Butyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate
A mixture of 13.52 g of tert-butyl 1-piperazinecarboxylate, 10.81 g of 3,6-dichloropyridazine and 20 ml of triethylamine in 100 ml of n-butanol is refluxed for 5 hours. The mixture is concentrated under vacuum and the residue is chromatographed on silica gel, eluting with a DCM/EtOAc mixture (90/10; v/v). 14 g of the expected product are obtained, and are used without further purification.

reactant | tert-butyl 1-piperazinecarboxylate | 13.52 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 3,6-dichloropyridazine | 10.81 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | tert-Butyl 4-(6-chloro-3-pyridazinyl)-1-piperazinecarboxylate | 14 g | ClC1=CC=C(N=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C13H19ClN4O2
